US03966713
1.2 g. of 17β-acetoxy-11β-fluoro-4-androsten-3-one is stirred in a mixture of 30 ml. of methanol and 5 ml. of water for 10 hours at room temperature with 1 g. of potassium carbonate. The reaction mixture is filtered off from the insoluble matter, the solution is neutralized with glacial acetic acid, concentrated under vacuum, the residue taken up in methylene chloride, and dried. After recrystallization from acetone/hexane, 800 mg. of 11β-fluoro-17β-hydroxy-4-androsten-3-one is obtained; m.p. 161°-162°. UV: ε239 = 16,600 (methanol).

reactant | 17β-acetoxy-11β-fluoro-4-androsten-3-one | C(C)(=O)O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CCC3=CC(CC[C@]3(C)[C@H]1[C@H](C2)F)=O | C21H29FO3
reactant | methanol | CO | CH4O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | 11β-fluoro-17β-hydroxy-4-androsten-3-one | F[C@@H]1[C@@H]2[C@]3(CCC(C=C3CC[C@H]2[C@@H]2CC[C@@H]([C@@]2(C)C1)O)=O)C | C19H27FO2
